US04067858
(6R,7R)-7-Amino-3-Methylceph-3-em-4-Carboxylic Acid
Dry pyridine (2.0 ml. 2.4 × 10-2 mole) was added dropwise over 1 minute to a stirred suspension of phosphorus pentachloride (5.12g, 2.4 × 10-2 mole) in methylene chloride (50 ml.) and the mixture stirred at 25°-30° for 25 minutes and then cooled to -10°. The polymer ester of (6R,7R)-3-methyl-7-phenylacetamidoceph-3-em-4-carboxylic acid (10.5g, containing 1.04 × 10-2 mole cephalosporin moiety) prepared as in example 8, was then added and washed in with methylene chloride (30 ml.). The slurry was stirred at room temperature for 90 minutes, cooled to -10° and treated with methanol (5.0 ml) such that the temperature did not rise above 0°. After stirring for 10 minutes further methanol (8 ml) was added and the mixture was stirred at room temperature for 30 minutes. The mixture was then filtered directly with no water treatment and the polymer was washed with methylene chloride (4 × 50 ml), and pulled dry. The damp polymer was slurried directly in 98% formic acid (25 ml) and the mixture poured into a glass column. The polymer was eluted with a mixture of methylene chloride/formic acid (140 ml, 1:1) containing toluene-4-sulphonic acid (4.2g). The combined eluate was evaporated and the residue worked-up as in example 21 to afford the title acid (0.815g, 36.8%) as an off-white crystalline solid. The IR and NMR spectra and t.l.c. of the product were identical with those of an authentic sample. [a]D20 150° (c. 0.5 in 0.2M, pH 7.0 phosphate buffer).

reactant | pyridine | 2.4 × 10-2 mole, 2.0 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 2.4 × 10-2 mole, 5.12g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | (6R,7R)-3-methyl-7-phenylacetamidoceph-3-em-4-carboxylic acid | 1.04 × 10-2 mole, 10.5g | CC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C16H16N2O4S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | phosphate | 0.2M, pH 7.0 | P(=O)([O-])([O-])[O-]
product | (6R,7R)-7-Amino-3-Methylceph-3-em-4-Carboxylic Acid | N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
